* Circuit File

*** Includes
.LIB $ADK/technology/ic/models/tsmc018.mod
.INCLUDE "/home/cxr3473/digicdesign/project/digic_project/demo2/sobel_demo/layout/sobel_demo.pex.netlist"
*** Options
.OPTION NOASCII
.OPTION MODWL
.OPTION ENGNOT
.OPTION AEX
.OPTION LIMPROBE=10000.0
.OPTION DOTNODE
.OPTION GRAMP=9

*** INSTANCE
X_PARASITIC O_MODE[1] I_RESET I_PIXEL_BOT[16] I_PIXEL_BOT[0]
+ I_PIXEL_TOP[15] I_PIXEL_MID[17] I_PIXEL_BOT[7] I_PIXEL_MID[7] I_PIXEL_BOT[2]
+ I_PIXEL_TOP[1] I_CLOCK I_PIXEL_MID[16] I_PIXEL_TOP[17] I_PIXEL_BOT[9] I_VALID
+ I_PIXEL_TOP[16] I_PIXEL_BOT[18] I_PIXEL_TOP[19] I_PIXEL_TOP[0] I_PIXEL_TOP[11]
+ I_PIXEL_MID[22] I_PIXEL_TOP[9] I_PIXEL_MID[0] I_PIXEL_BOT[3] I_PIXEL_MID[3]
+ I_PIXEL_MID[2] I_PIXEL_MID[18] I_PIXEL_TOP[3] I_PIXEL_BOT[14] I_PIXEL_BOT[11]
+ I_PIXEL_BOT[6] O_MODE[0] I_PIXEL_BOT[4] I_PIXEL_TOP[21] I_PIXEL_BOT[19]
+ I_PIXEL_MID[4] I_PIXEL_BOT[13] I_PIXEL_BOT[12] I_PIXEL_TOP[4] I_PIXEL_TOP[5]
+ I_PIXEL_MID[20] I_PIXEL_BOT[20] I_PIXEL_BOT[21] I_PIXEL_MID[5] I_PIXEL_BOT[15]
+ I_PIXEL_TOP[7] I_PIXEL_TOP[20] I_PIXEL_MID[23] I_PIXEL_TOP[12] I_PIXEL_TOP[13]
+ O_DIR[0] I_PIXEL_BOT[1] I_PIXEL_BOT[8] I_PIXEL_TOP[8] I_PIXEL_TOP[18]
+ I_PIXEL_MID[1] I_PIXEL_BOT[17] I_PIXEL_TOP[2] O_DIR[2] O_VALID O_DIR[1] O_EDGE
+ I_PIXEL_MID[21] I_PIXEL_MID[19] I_PIXEL_TOP[22] I_PIXEL_BOT[5] I_PIXEL_MID[6]
+ I_PIXEL_BOT[22] I_PIXEL_BOT[10] I_PIXEL_TOP[6] I_PIXEL_TOP[23] I_PIXEL_TOP[14]
+ I_PIXEL_BOT[23] I_PIXEL_TOP[10] VDD GND SOBEL_DEMO

.CONNECT GND 0

* Parasitic Capacitances
C1 O_DIR[0] 0 120F
C2 O_DIR[1] 0 120F
C3 O_DIR[2] 0 120F
C4 O_MODE[0] 0 120F
C5 O_MODE[1] 0 120F
C6 O_VALID   0 120F
C7 O_EDGE    0 120F


* - Analysis Setup - DC
*.DC VFORCE__A 0 1.8 .01
*.DC VFORCE__B 0 1.8 .01
*.DC VFORCE__C 0 1.8 .01
*.DC VFORCE__D 0 1.8 .01

* - Analysis Setup - Tran
.TRAN 0.1 1260n 0

*-----------------------------------------
* Set Buses
*-----------------------------------------
.SETBUS TOP I_PIXEL_TOP[0] I_PIXEL_TOP[1] I_PIXEL_TOP[2] I_PIXEL_TOP[3] I_PIXEL_TOP[4] I_PIXEL_TOP[5] I_PIXEL_TOP[6] I_PIXEL_TOP[7] I_PIXEL_TOP[8] I_PIXEL_TOP[9] I_PIXEL_TOP[10] I_PIXEL_TOP[11] I_PIXEL_TOP[12] I_PIXEL_TOP[13] I_PIXEL_TOP[14] I_PIXEL_TOP[15] I_PIXEL_TOP[16] I_PIXEL_TOP[17] I_PIXEL_TOP[18] I_PIXEL_TOP[19] I_PIXEL_TOP[20] I_PIXEL_TOP[21] I_PIXEL_TOP[22] I_PIXEL_TOP[23]

.SETBUS MID I_PIXEL_MID[0] I_PIXEL_MID[1] I_PIXEL_MID[2] I_PIXEL_MID[3] I_PIXEL_MID[4] I_PIXEL_MID[5] I_PIXEL_MID[6] I_PIXEL_MID[7] I_PIXEL_MID[8] I_PIXEL_MID[9] I_PIXEL_MID[10] I_PIXEL_MID[11] I_PIXEL_MID[12] I_PIXEL_MID[13] I_PIXEL_MID[14] I_PIXEL_MID[15] I_PIXEL_MID[16] I_PIXEL_MID[17] I_PIXEL_MID[18] I_PIXEL_MID[19] I_PIXEL_MID[20] I_PIXEL_MID[21] I_PIXEL_MID[22] I_PIXEL_MID[23]

.SETBUS BOT I_PIXEL_BOT[0] I_PIXEL_BOT[1] I_PIXEL_BOT[2] I_PIXEL_BOT[3] I_PIXEL_BOT[4] I_PIXEL_BOT[5] I_PIXEL_BOT[6] I_PIXEL_BOT[7] I_PIXEL_BOT[8] I_PIXEL_BOT[9] I_PIXEL_BOT[10] I_PIXEL_BOT[11] I_PIXEL_BOT[12] I_PIXEL_BOT[13] I_PIXEL_BOT[14] I_PIXEL_BOT[15] I_PIXEL_BOT[16] I_PIXEL_BOT[17] I_PIXEL_BOT[18] I_PIXEL_BOT[19] I_PIXEL_BOT[20] I_PIXEL_BOT[21] I_PIXEL_BOT[22] I_PIXEL_BOT[23]

.SETBUS DIR O_DIR[0] O_DIR[1] O_DIR[2]

.SETBUS MODE O_MODE[0] O_MODE[1]

*------------------------------------------
* Sig Buses
*------------------------------------------
.SIGBUS TOP VHI=1.62 VLO=0 TRISE=0.2n TFALL=0.2n BASE=HEXA 0 000000 50n 00FFFF 160n 0000FF 270n FF0000 380n 000000 490n FF0000 600n 000000 710n FFFFFF 820n FFFF00 930n 00FF00 1040n 000000 1150n 000000
.SIGBUS MID VHI=1.62 VLO=0 TRISE=0.2n TFALL=0.2n BASE=HEXA 0 000000 50n 0000FF 160n 0000FF 270n 00FF00 380n FF0000 490n FF0000 600n FFFFFF 710n 000000 820n FF0000 930n FF00FF 1040n 000000 1150n 0000FF
.SIGBUS BOT VHI=1.62 VLO=0 TRISE=0.2n TFALL=0.2n BASE=HEXA 0 000000 50n 000000 160n 0000FF 270n 0000FF 380n FFFF00 490n FF0000 600n 000000 710n 000000 820n 000000 930n 00FF00 1040n FFFFFF 1150n 00FFFF
*.SIGBUS CONTROL1 VHI = 1.8 VLO = 0 TRISE=0.2n TFALL=0.2n BASE=BIN 0 0 40n 1 80n 0 120n 1 160n 0 240n 1 280n 0 320n 1 360n 0 400n 1
*.SIGBUS CONTROL1 VHI = 1.8 VLO = 0 TRISE=0.2n TFALL=0.2n BASE=BIN 0 0 80n 1 160n 0 240n 1 320n 0 400n 1

*0 0000 80n FFFF 160n FFFF 240n 0001 320n 0000 400n ABCD
*0 0000 80n FFFF 160n 0001 240n FFFF 320n 0001 400n 89EF
*------------------------------------------
* Force
*------------------------------------------
VForce__I_CLOCK I_CLOCK 0 PULSE(0 1.62 5n 0.1n 0.1n 5n 10n)
VForce__I_RESET I_RESET 0 PULSE(0 1.62 0.1n 0.1n 0.1n 50n 110n)
VForce__I_VALID I_VALID 0 PULSE(0 1.62 50n 0.1n 0.1n 10n 90n)
VForce__VDD VDD 0 DC 1.62

*------------------------------------------
* Global Outputs
*------------------------------------------
.PROBE I V SG

* --- Temperature
*.TEMP 70
.TEMP 125

* --- Waveform Outputs
*.PLOT DC V(VOUT)

* --- Measure Power
.measure tran Static_low_pwr AVG power
.measure tran Static_high_pwr AVG power
.measure tran Dynamic_pwr MAX power


.MEASURE tran static_power_output_high AVG power from=.1ns to=5ns
.MEASURE tran static_power_output_high AVG power from=10ns to=15ns
.MEASURE tran static_power_output_high AVG power from=20ns to=25ns
.MEASURE tran static_power_output_high AVG power from=30ns to=35ns
.MEASURE tran static_power_output_high AVG power from=35ns to=40ns
.MEASURE tran static_power_output_high AVG power from=40ns to=45ns
.MEASURE tran static_power_output_high AVG power from=45ns to=50ns
.MEASURE tran static_power_output_high AVG power from=50ns to=100ns
.MEASURE tran static_power_output_high AVG power from=100ns to=200ns
.MEASURE tran static_power_output_high AVG power from=200ns to=300ns
.MEASURE tran static_power_output_high AVG power from=300ns to=400ns
.MEASURE tran static_power_output_high AVG power from=400ns to=500ns
.MEASURE tran static_power_output_high AVG power from=500ns to=1000ns


.MEASURE tran inst MAX power from=.1ns to=5ns
.MEASURE tran inst MAX power from=10ns to=15ns
.MEASURE tran inst MAX power from=20ns to=25ns
.MEASURE tran inst MAX power from=30ns to=35ns
.MEASURE tran inst MAX power from=35ns to=40ns
.MEASURE tran inst MAX power from=40ns to=45ns
.MEASURE tran inst MAX power from=45ns to=50ns
.MEASURE tran inst MAX power from=50ns to=100ns
.MEASURE tran inst MAX power from=100ns to=200ns
.MEASURE tran inst MAX power from=200ns to=300ns
.MEASURE tran inst MAX power from=300ns to=400ns
.MEASURE tran inst MAX power from=400ns to=500ns
.MEASURE tran inst MAX power from=500ns to=1000ns


.PLOTBUS TOP
.PLOTBUS MID
.PLOTBUS BOT
.PLOTBUS DIR
.PLOTBUS MODE

.PLOT TRAN v(I_VALID) V(I_RESET) V(O_VALID) V(I_CLOCK) V(O_EDGE)

.end
